US04971982
A solution of 3.35 g of 2-[2-methanesulphonyloxy-3-methyl-3-(4-methylthiophenoxy)butyl]pyridine N-oxide methanesulphonic acid salt and 2.25 g of sodium iodide in 50 ml of acetone was heated under reflux for 2 hours. The mixture was filtered and the filtrate was evaporated. The residue was partitioned between water and dichloromethane and the organic phase was evaporated. The residue was taken up in 50 ml of acetone and heated under reflux for 2 hours with 2.25 g of sodium iodide. The cooled reaction mixture was then evaporated and the residue was partitioned between water and dichloromethane. The organic phase was evaporated and the residue was crystallized from dichloromethane/ethyl acetate to give 1.8 g of 2-[2-iodo-3-methyl-3-(4-methylthiophenoxy)butyl]pyridine N-oxide in the form of a pale yellow solid of melting point 191-193° C.

reactant | 2-[2-methanesulphonyloxy-3-methyl-3-(4-methylthiophenoxy)butyl]pyridine N-oxide methanesulphonic acid salt | 3.35 g | CS(=O)(=O)O.CS(=O)(=O)OC(CC1=[N+](C=CC=C1)[O-])C(C)(SC1=CC=C(C=C1)C)C
reactant | sodium iodide | 2.25 g | [I-].[Na+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-[2-iodo-3-methyl-3-(4-methylthiophenoxy)butyl]pyridine N-oxide | 1.8 g | IC(CC1=[N+](C=CC=C1)[O-])C(C)(SC1=CC=C(C=C1)C)C | C17H20INOS
